US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(7-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yl)-amine was prepared from 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (100.0 mg, 0.3249 mmol) and 7-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamine (88.0 mg, 0.357 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (36.0 mg, 0.0658 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow foam (0.107 g, 63%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.50 (d, J=6.6 Hz, 1H), 8.23 (d, J=8.5 Hz, 2H), 8.08 (d, J=8.4 Hz, 2H), 7.65 (d, J=7.4 Hz, 1H), 7.36 (dd, J=8.1, 2.2 Hz, 1H), 7.31 (d, J=2.0 Hz, 1H), 7.10 (d, J=8.1 Hz, 1H), 7.01 (t, J=7.1 Hz, 1H), 6.81 (s, 1H), 3.73-3.67 (m, 4H), 3.10 (s, 3H), 2.85 (ddd, J=13.7, 13.7, 7.5 Hz, 2H), 2.76-2.51 (m, 7H), 2.10 (ddd, J=11.2, 11.2, 11.2 Hz, 2H), 1.44 (dddd, J=23.3, 11.5, 11.5, 11.5 Hz, 2H). MS=518 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.3249 mmol, 100.0 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O2S
reactant | 7-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamine | 0.357 mmol, 88.0 mg | N1(CCOCC1)C1CCC2=C(CC1)C=C(C=C2)N | C15H22N2O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0658 mmol, 36.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(7-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=CC1=C(CCC(CC1)N1CCOCC1)C2 | C28H31N5O3S
